US04500636
To 37 ml of thionyl chloride was added 40 g of 2-benzoyl-3-nitrobenzoic acid. The mixture was heated and stirred for 4 hours on an oil bath kept at a temperature of 50° to 60° C. Excess thionyl chloride was distilled away under reduced pressure, and 40.2 g of 3-chloro-3-phenyl-4-nitrophthalide was obtained as a brown oily substance. Separately, 9.0 g (0.08 mol.) of potassium tert-butoxide and 9.3 g (0.07 mol.) of 5-methylbenzotriazole were added to 300 ml of dried dimethylformamide, and stirred for 20 minutes at room temperature. The resulting mixture was cooled to 5° C. and thereto, was added dropwise gradually the previously prepared solution containing 20 g (0.07 mol.) of 3-chloro-3-phenyl-4-nitrophthalide in 100 ml of dried dimethylformamide as the mixture was kept at 5° C. After the dropwise addition, the cooling bath was removed, and the stirring was further continued for 5 hours at room temperature. Thereto, 300 ml of a saturated aqueous solution of ammonium chloride was added subsequently. The reaction mixture was extracted with ethyl acetate repeatedly, and the extract was washed with water. The rsulting organic layer was dried over anhydrous sodium sulfate, and the sodium sulfate was filtered off with suction. The filtrate was concentrated to obtain 27.5 g of oily substance. This oily substance was separated and purified by flash column chromatography (silica gel: 1 Kg, eluate: hexane-ethyl acetate (2:1 by volume) mixture) to obtain the intended compound, 3-phenyl-3-(5-methyl-1-benzotriazolyl)-4-nitrophthalide, in the form of white crystals. Yield 6.9 g, Melting Point 240° to 248° C.

reactant | potassium tert-butoxide | 0.08 mol, 9.0 g | CC(C)([O-])C.[K+]
reactant | 5-methylbenzotriazole | 0.07 mol, 9.3 g | CC1=CC2=C(NN=N2)C=C1 | C7H7N3
reactant | 3-chloro-3-phenyl-4-nitrophthalide | 0.07 mol, 20 g | ClC1(OC(=O)C2=CC=CC(=C12)[N+](=O)[O-])C1=CC=CC=C1 | C14H8ClNO4
solvent | dimethylformamide | 100 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 300 ml | CN(C=O)C | C3H7NO
product | 3-phenyl-3-(5-methyl-1-benzotriazolyl)-4-nitrophthalide | C1(=CC=CC=C1)C1(OC(=O)C2=CC=CC(=C12)[N+](=O)[O-])N1N=NC2=C1C=CC(=C2)C | C21H14N4O4
